Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
Coronary angiography, accessed R radial on ___
 
History of Present Illness:
Ms. ___ is a ___ year old female, who was initially seen in 
the ___ with chest pain on ___. Patient was 
then transferred to the ___ ___ for further evaluation.  
 Patient reports that was in usual state of health, and this 
morning after making coffee and emptying dishwasher, she had an 
acute sudden onset of chest pain. This pain was located in the 
___ her chest, and radiated throughout without radiation 
to the arm or jaw. Patient continued to have chest pain, and 
then sat down as she thought that this was indigestion from her 
coffee. Given persistence, patient then proceeded to take a full 
adult 325 mg aspirin, and then proceeded to the ___. 
Patient reports that her pain persisted while she was at ___ 
___, and was accompanied with some mild nausea and some mild 
shortness of breath. While at the ___, she had improvement in her 
chest pain. She has not eaten anything since breakfast.  
 While at ___, she received sublingual Nitroglycerin, 
simethicone, morphine 2 mg, lidocaine 20 ml, and was started on 
heparin gtt. . She initially underwent an EKG which did show 
some inferior STE which then had resolved (seen at 10 AM). 
Further, she had cardiac markers tested which showed a troponin 
of-T of < 0.011 but by report there was also a troponin of 
0.142. Di-dimer was 0.28. TSH 0.279. Given the elevated troponin 
on recheck, patient was then transferred to ___ ___ For further 
evaluation.  
 Upon arrival, patient reports that she has been doing well, 
chest pain free. Patient was initially found to have vitals of 
160/78, with regular HR.  
 In the ___, initial vital signs were: 1 97.9 63 160/78 16 99% RA 
 
 - Exam was notable for: RRR, S1, S2. No extra sounds, lungs 
clear.  
 - Labs were notable for: WBC 9.1, Hgb 13.6, Platelet 217.  
 - Imaging obtained at OSH was negative for cardiopulmonary 
process.  
 Vitals prior to transfer were: 1 59 142/64 18 98% RA  
 Upon arrival to the floor, patient reports no acute complaints. 

 
Past Medical History:
 Hypothyroidism  
 Glaucoma  
 Low Estrogen  
 Uterine Polyp removal  

 
Social History:
___
Family History:
 Father: Passed away, age ___. accident  
 Mother: ___, TIA, stroke, passed away from E.coli 
bacteremia  
 Uncle: MI  
 ___ GF: CAD/MI.  

 
Physical Exam:
Tmax: 97.8 BP: 110-120/50-60s HR: 70s RR: 16, 98% on RA
GENERAL - Pleasant, well appearing female, no acute distress.  
HEENT: Normocephalic, AT. no pallor, scleral icterus, EOMI. OP 
clear.  
Neck: No cervical LAD, no JVD.  
Cardiac: RRR, S1, S2. No rubs/murmurs/gallops
Lungs: Clear to auscultation bilaterally, no adventitial sounds 
heard.  
Abdomen: Soft, NT/ND. _BS. No hepatomegaly appreciated.  
Skin: Warm, well perfused. Pulses distally symmetric and equal.  

Neurologic: AOx3, CN II-XII grossly intact. 

 
Pertinent Results:
___ 08:22PM BLOOD cTropnT-0.46*
___ 11:00PM BLOOD cTropnT-0.62*
___ 02:02AM BLOOD CK-MB-22* cTropnT-0.51*
___ 03:50AM BLOOD CK-MB-20* MB Indx-10.5* cTropnT-0.42*

___ 06:45AM BLOOD WBC-6.6 RBC-4.49 Hgb-13.0 Hct-40.0 MCV-89 
MCH-29.0 MCHC-32.5 RDW-13.5 RDWSD-44.2 Plt ___
___ 06:45AM BLOOD ___ PTT-27.0 ___

___ 06:45AM BLOOD Glucose-115* UreaN-13 Creat-0.7 Na-138 
K-3.7 Cl-104 HCO3-23 AnGap-15
___ 06:45AM BLOOD Calcium-9.0 Phos-2.8 Mg-2.3

___ 04:56AM BLOOD %HbA1c-5.8 eAG-120
___ 03:50AM BLOOD Triglyc-120 HDL-60 CHOL/HD-3.0 LDLcalc-94

___ 03:50AM BLOOD TSH-0.24*
___ 06:45AM BLOOD Free T4-1.6

___ Coronary Angiography Report
Coronary anatomy: Right dominant
LM: No disease, short vessel.
LAD: No disease, tapers at apex.
LCx: No disease.
RCA: No disease.

___ ECHO
The left atrium and right atrium are normal in cavity size. Left 
ventricular wall thickness, cavity size and regional/global 
systolic function are normal (LVEF >55%). Right ventricular 
chamber size and free wall motion are normal. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis. Trace aortic regurgitation is 
seen. The mitral valve appears structurally normal with trivial 
mitral regurgitation. The estimated pulmonary artery systolic 
pressure is normal. There is no pericardial effusion. 
IMPRESSION: Normal global and regional biventricular systolic 
function. No clinically-significant valvular disease seen. 

 
Brief Hospital Course:
___ yo female with hypothyroidism presenting with CP, found to 
have STE at OSH and elevated troponins(D-dimer non-elevated), 
and transferred to ___.
#NSTEMI: Chest pain typical in nature- substernal pain/pressure, 
associated with activity in kitchen, relieved with SLN in ___. No 
cardiac risk factors, however elevated troponins and EKG at OSH 
with reported STE in inferior leads. At ___, EKG with 
incomplete RBBB and non-specific TW abnormalities. Troponins 
peaked at 0.62 and CK-MB at 22. S/p ASA 325 at home, and started 
and heparin gtt continued until catheterization. Coronary 
angiography, accessed via R radial artery, with no disease. ECHO 
also with LVEF 55%, no wall motion abnormailities or significant 
valvular disease. Therefore, discharged home with cardiology and 
PCP ___. Discharged on nifedipine in case of coronary 
vasospasm, as well as metoprolol 12.5 mg QD, aspirin 81 mg and 
atorvastatin 80 mg for primary prevention of CAD. 

# Hypothyroidism: TSH low at 0.24. Free T4 PND at discharge. 
Continued on home synthroid. 

===Transitional issues====
- Lipids: chol ___ 120/ HDL 60/ LDL 94. Therefore, ___ 
ASCVD risk is 10.1% and pt would benefit from statin therapy. 
New medication started: atorvastatin 80 mg QD. 
-Additional new meds: ASA 81 mg QD, metoprolol 12.5 mg QD, and 
nifedipine 30 mg QD for possible coronary vasospasm. 
- Pt also reports taking transdermal estrogen. Although there 
was no evidence of CAD on coronary angiography, exogenous 
estrogen increases pt's risk of vascular disease. Please discuss 
risk/benefits with pt at future PCP ___. 
-HgA1c 5.8, therefore pt is with pre-diabetes and requires 
yearly A1c for monitoring. 
-Repeat thyroid studies as outpatient, as TSH was low. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 100 mcg PO DAILY 
2. Azopt (brinzolamide) 1 % ophthalmic BID 
3. Estradiol 0.5 mg PO 1X/WEEK (MO) 

 
Discharge Medications:
1. Levothyroxine Sodium 100 mcg PO DAILY 
2. Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
3. Azopt (brinzolamide) 1 % ophthalmic BID 
4. Estradiol 0.5 mg PO 1X/WEEK (MO) 
5. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
RX *nitroglycerin [Nitrostat] 0.3 mg 1 tablet(s) sublingually as 
needed for chest pain Disp #*15 Tablet Refills:*0
6. NIFEdipine CR 30 mg PO DAILY 
RX *nifedipine 30 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
7. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
8. Metoprolol Succinate XL 12.5 mg PO DAILY 
RX *metoprolol succinate 25 mg 0.5 (One half) tablet(s) by mouth 
daily Disp #*15 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-Non-ST elevated myocardial infarction
-Hypothyroidism
-Pre-diabetes

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,

You came to the hospital because you were having chest pain. The 
electrical activity in your heart seen on our EKG and the enzyme 
markers in your blood of your heart's health were concerning to 
us for a heart attack. Therefore, we looked at your coronary 
arteries, and thankfully did not find any plaque build-up. We 
also looked at your heart through an ECHO and its function 
looked normal. Therefore, we are not sure what However, we are 
unable to say with certainty what caused you to have this chest 
pain, but we hope that it does not happen again. We are starting 
you on a medication called Nifedipine in case your chest pain 
was caused by something called "Vasospasm," which is 
constriction or spasms of your coronary arteries.  We are also 
starting you on metoprolol 12.5 mg once a day, aspirin 81 mg 
once a day, and atorvastatin 81 mg a day to minimize your risk 
of a heart diesease in the future. 

If you are lightheaded or dizzy, check your pulse and call your 
PCP. You may need to stop the metoprolol or nifedipine. 

We wish you the best,
-Your ___ care team
 
Followup Instructions:
___